US05393788
N-[2-Cyano-2-(3-cyclopentyloxy-4-methoxyphenyl)ethyl]oxamide
N-[2-cyano-2-(3-cyclopentyloxy-4-methoxyphenyl)phenyl]oxamate (332 mg, 0.96 mmol) in methanol (3 mL) was treated with lithium hydroxide monohydrate (126 mg, 2.88 mmol) and stirred for 5 min. The solvent was removed in vacuo, the resin acidified with 10% aqueous hydrochloric acid and partitioned between methylene chloride and water and extracted. The organic extract was dried (magnesium sulfate) and evaporated. The residue was dissolved in ethylene gylcol dimethyl ether (5 mL) and treated with N-methylmorpholine (127 mL, 1.15 mmol) and isobutylchloroformate (143 mL, 1.1 mmol). After 10 min, the reaction was cooled to 0° C. and a solution of ammonia-saturated ethylene glycol dimethyl ether (5-10 mL) was added. The reaction was allowed to stir for 0.5 h at 0° C. and for 2 h at room temperature. The mixture was partitioned between methylene chloride/methanol and water and washed with 10% aqueous hydrochloric acid and water. The organic extract was dried (magnesium sulfate) and evaporated to a white solid. Purification by flash chromatography, eluting with 1:1 ethyl acetate/hexanes, provided a white solid which was triturated with ether, filtered and dried (106.2 mg, 33%): m.p. 176°-177° C.

reactant | N-[2-cyano-2-(3-cyclopentyloxy-4-methoxyphenyl)phenyl]oxamate | 0.96 mmol, 332 mg | C(#N)C1(C(C=CC=C1)NC(C(=O)[O-])=O)C1=CC(=C(C=C1)OC)OC1CCCC1
reactant | lithium hydroxide monohydrate | 2.88 mmol, 126 mg | O.[OH-].[Li+]
reactant | N-methylmorpholine | 1.15 mmol, 127 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 1.1 mmol, 143 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia | 5-10 mL | N | H3N
solvent | methanol | 3 mL | CO | CH4O
product | N-[2-Cyano-2-(3-cyclopentyloxy-4-methoxyphenyl)ethyl]oxamide | C(#N)C(CNC(=O)C(=O)N)C1=CC(=C(C=C1)OC)OC1CCCC1 | C17H21N3O4
